US07964597B2
4-Nitro-2-(trifluoromethyl)benzaldehyde (D30)
To 4-nitro-2-(trifluoromethyl)benzonitrile (100 mg, 0.463 mmol) in toluene (3 mL) at 0° C. under argon was added DIBAL-H (0.51 mL, 1M in toluene, 0.51 mmol) and the reaction stirred for 3.75 h. MeOH and sulphuric acid were added and the reaction mixture was warmed to room temperature and stirred for 1 h. The mixture was concentrated and the residue was portioned between EtOAc (10 mL) and water (10 mL). The organic phase was dried and concentrated to give the crude product which was purified by column chromatography eluting with 0-15% EtOAc/petroleum ether to give the title compound as a yellow oil (91 mg), δH (CDCl3, 400 MHz) 10.47 (1H, s), 8.66 (1H, d), 8.56 (1H, dd), 8.33 (1H, d).

reactant | 4-nitro-2-(trifluoromethyl)benzonitrile | 0.463 mmol, 100 mg | [N+](=O)([O-])C1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3N2O2
reactant | DIBAL-H | 0.51 mmol, 1M, 0.51 mL | CC(C)C[AlH]CC(C)C
reactant | MeOH | CO | CH4O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Nitro-2-(trifluoromethyl)benzaldehyde | 91 mg | [N+](=O)([O-])C1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F3NO3
